US07544697B2
Triphenylphosphine (2.4 mg, 0.09 mmol) and palladium (II) acetate (7 mg, 0.03 mmol) were added to a mixture of 4-bromo-1,5-dimethyl-1H-pyrazole-3-carbonitrile (0.600 g, 3.00 mmol), 2-aminophenylboronic acid (0.719 g, 5.25 mmol), aqueous sodium carbonate (1.8 mL of 2 M), propanol (5.25 mL) and water (1.1 mL). The reaction was heated under a nitrogen atmosphere at 100° C. for three hours and then allowed to cool to ambient temperature. The work-up procedure described in Part G of Examples 1-4 was followed. The resulting orange oil was purified by chromatography on a HORIZON HPFC system (25+M cartridge, eluting with ethyl acetate/hexane ranging in ratios from 50:50 to 75:25) to provide 371 mg of 4-(2-aminophenyl)-1,5-dimethyl-1H-pyrazole-3-carbonitrile as a pale yellow solid.

reactant | 4-bromo-1,5-dimethyl-1H-pyrazole-3-carbonitrile | 3.00 mmol, 0.600 g | BrC=1C(=NN(C1C)C)C#N | C6H6BrN3
reactant | 2-aminophenylboronic acid | 5.25 mmol, 0.719 g | NC1=C(C=CC=C1)B(O)O | C6H8BNO2
reactant | sodium carbonate | 2 M, 1.8 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | propanol | 5.25 mL | C(CC)O | C3H8O
catalyst | palladium (II) acetate | 0.03 mmol, 7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | Triphenylphosphine | 0.09 mmol, 2.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 1.1 mL | O | H2O
product | 4-(2-aminophenyl)-1,5-dimethyl-1H-pyrazole-3-carbonitrile | 371 mg | NC1=C(C=CC=C1)C=1C(=NN(C1C)C)C#N | C12H12N4
